US04362666
348 g of 2-methyl-3,4-dioxo-1,2,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine are added portionwise over 1 hour to 4,500 ml of tetrahydrofuran and 7,410 ml of 1-molar diborane in tetrahydrofuran while cooling with ice to 18° and stirring under nitrogen. The mixture is refluxed for 24 hours, again cooled to 5° and combined with 1,200 ml of glacial acetic acid followed by 900 ml of water. The solution is refluxed for 24 hours, evaporated and the residue taken up in 10,500 ml of methanol. The solution is again refluxed for 2 hours, evaporated, the residue dissolved in 3,000 ml of water and the pH of the solution adjusted to 14 with 1,200 ml of1% aqueous sodium hydroxide. The mixture is extracted with diethyl ether, the extract dried, filtered and evaporated to yield the 2-methyl-1,2,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4 ]benzodiazepine melting at 98°-100°.

reactant | 2-methyl-3,4-dioxo-1,2,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | 348 g | CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)C(C1=O)=O | C16H15N3O2
reactant | diborane | 1-molar, 7,410 ml | B#B | B2
reactant | acetic acid | 1,200 ml | C(C)(=O)O | C2H4O2
reactant | water | 900 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methyl-1,2,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4 ]benzodiazepine | CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)CC1 | C16H19N3
